US04188395
2-Phthalimidomethyl-6-methyl-4-(-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester
A solution of 5.2 ccs of pyridine-4-aldehyde, 14.0 g of phthalimidoacetoacetic acid ethyl ester and 6.5 g of β-aminocrotonic acid ethyl ester in 80 ccs of ethanol is heated under reflux for 24 hours and, after cooling and filtering, white crystals of melting point 205°-207° C. (ethanol) are obtained, yield: 65%.

reactant | pyridine-4-aldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | phthalimidoacetoacetic acid ethyl ester | 14.0 g | C(C)OC(CC(=O)CN1C(C=2C(C1=O)=CC=CC2)=O)=O | C14H13NO5
reactant | β-aminocrotonic acid ethyl ester | 6.5 g | C(C)OC(\C=C(\C)/N)=O | C6H11NO2
reactant | ethanol | C(C)O | C2H6O
product | 2-Phthalimidomethyl-6-methyl-4-(-pyridyl)-1,4-dihydropyridine-3,5-dicarboxylic acid diethyl ester | yield: 65% | C(C)OC(=O)C1=C(NC(=C(C1C1=NC=CC=C1)C(=O)OCC)C)CN1C(C=2C(C1=O)=CC=CC2)=O | C26H25N3O6
